US05627200
5-Methoxy-2-(2-methyl-thiazole-4-yl)-benzofuran
A solution of 2-bromo-1-(5-methoxy-benzofuran-2-yl)-ethanone (0.6 g, 2.2 mmol) and thioacetamide (0.4 g, 5.1 mmol) in ethanol (15 mL) were refluxed for 1 hour. The reaction mixture was concentrated in vacuo and subjected to flash chromatography on silica gel (14% ethyl acetate:hexanes) to afford the title compound as a solid, (0.47 g; m.p. 136°-137° C.).

reactant | 2-bromo-1-(5-methoxy-benzofuran-2-yl)-ethanone | 2.2 mmol, 0.6 g | BrCC(=O)C=1OC2=C(C1)C=C(C=C2)OC | C11H9BrO3
reactant | thioacetamide | 5.1 mmol, 0.4 g | C(C)(=S)N | C2H5NS
solvent | ethanol | 15 mL | C(C)O | C2H6O
product | 5-Methoxy-2-(2-methyl-thiazole-4-yl)-benzofuran | COC=1C=CC2=C(C=C(O2)C=2N=C(SC2)C)C1 | C13H11NO2S
